US06492348B1
(3aR,4S,6R,6aR)-N-(2-hydroxybutyl )-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxamide
To a solution of furo[3,4-d]-1,3-dioxole-β-D ribofuranose acid (5.0 g) in dichloromethane (50 ml) was added carbonyl diimidazole (4.83 g), the mixture was stirred for 20 min at 20° C. and 1-amino-2-butanol (2.45 g) was added and the mixture was stirred, under nitrogen, at 20° C. for 18 h. The mixture was diluted with ether (50 ml) and washed with saturated citric acid solution (100 ml) and saturated aqueous sodium bicarbonate (100 ml). The layers were separated and the organic layers concentrated in vacuo; the resulting residue was purified by flash column chromatography on silica gel, eluting with 1:1 ethyl acetate:cyclohexane, to give the title compound as a clear gum (3.81 g).

reactant | furo[3,4-d]-1,3-dioxole β-D ribofuranose | 5.0 g | O1COC=2C1=COC2.O[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO
reactant | carbonyl diimidazole | 4.83 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 1-amino-2-butanol | 2.45 g | NCC(CC)O | C4H11NO
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | ether | 50 ml | CCOCC | C4H10O
product | (3aR,4S,6R,6aR)-N-(2-hydroxybutyl )-6-methoxy-2,2-dimethyltetrahydrofuro[3,4-d][1,3]dioxole-4-carboxamide | 3.81 g | OC(CNC(=O)[C@H]1O[C@H]([C@@H]2OC(O[C@H]21)(C)C)OC)CC | C13H23NO6
